US05434188
To a room temperature solution of 7-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxylic acid (200 mg, 0.77 mmol in 5 mL of THF is added N,N-carbonyldiimidazole (162 mg, 1.00 mmol). The solution is heated at reflux for 1 hour and cooled slightly. Ethylamine (0.44 mL of a 70% aqueous solution) is added and the reaction mixture is stirred at room temperature for 30 minutes, followed by partitioning between ethyl acetate, and brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo. The crude product is chromatographed on silica gel eluting with hexane:ethyl acetate (2:1) to provide N-ethyl-7-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxamide in 70% yield; mp 78°-79° C.

reactant | 7-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxylic acid | COC1=CC=C2C=CC(=C(C2=C1)OC(C)C)C(=O)O | C15H16O4
reactant | N,N-carbonyldiimidazole | 1.00 mmol, 162 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | Ethylamine | C(C)N | C2H7N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-ethyl-7-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxamide | 70% yield | C(C)NC(=O)C1=C(C2=CC(=CC=C2C=C1)OC)OC(C)C | C17H21NO3
